Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ F with h/o CAD, PAD, asthma, who presents via 
EMS with acute, severe dyspnea. Per EMS/family, the patient had 
mildly smoldering symptoms for ___ days, then ___ minutes 
prior to calling 911 became rapidly significantly worse. She was 
noted to have RR 35-40. She received continuous nebs, 
solu-medrol 125mg IV, and MgSO4 2gm IV, and was placed on CPAP. 
On CPAP her symptoms improved.
No foreign travel, no fevers. No sick contacts. Ocassional dry 
cough but there has not been a change in this. 
In ER: (Triage Vitals:
Critical |174/142 |30 |100% cpap  ) 
Meds Given: 
___ 22:13 IH Albuterol 0.083% Neb Soln 1 Neb ___ 
___  
___ 01:42 PO/NG PredniSONE 50 mg ___  
___ 01:42 PO/NG Azithromycin 500 mg ___  

Fluids given: None
Radiology Studies:CXR
consults called: None

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI and no weight loss
HEENT:  [X] All normal
RESPIRATORY:  [+] Per HPI
CARDIAC:  [+] chest tightness that began when she sat up for 
lung auscultation
GI:  [X] All normal
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 

 
Past Medical History:
- Asthma: diagnosed at age ___ no PFTs as she was unable to 
participate in the exam; 4 lifetime hospitalizations, most 
recently two months ago; no history of intubations or MICU 
admissions.
- Coronary artery disease: s/p PCI to LCx and RCA in ___ and 
subsequent NSTEMI in ___ and ___.
- Hypertension
- Hyperlipidemia
- Peripheral vascular disease with infrapopliteal disease.
- Adjustment disorder with depressed mood
- Cataract s/p repair (R ___ L ___
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died the same day she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals:  T 97.9  P 78  BP 147/71  RR 16  SaO2 100% on 2L
CONS: NAD, comfortable appearing, laying flat.  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: wheezes throughout with crackles at the bases but she is 
moving some air. With sitting up she becomes short of breath. 
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative except when she becomes short of breath

DISCHARGE PHYSICAL EXAM
VS: 97.7, no fevers, 121/63 82 16 95% RA
GEN: elderly woman comfortable sitting up in bed with NAD, 
jovial
HEENT: NCAT, EOMI, MMM, no palpable cervical ___ EJ is 
prominent but IJ is difficult to appreciate
CV: normal rate, reg rhythm, no m/r/g
PULM: crackles right base, has better air movement and no 
crackles
ABD: soft, NTND, NABS
EXT: wwp, no c/c/e
NEU: no focal deficits
SKIN: no rashes
PSYCH: calm, appropriate affect

 
Pertinent Results:
ADMISSION LABS
___ 08:38PM   ___ PO2-183* PCO2-51* PH-7.31* TOTAL 
CO2-27 BASE XS--1 INTUBATED-NOT INTUBA
___ 08:38PM   LACTATE-1.4
___ 08:38PM   O2 SAT-98
___ 08:30PM   GLUCOSE-136* UREA N-15 CREAT-1.0 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-108 TOTAL CO2-24 ANION GAP-14
___ 08:30PM   estGFR-Using this
___ 08:30PM   cTropnT-<0.01
___ 08:30PM   proBNP-2690*
___ 08:30PM   CALCIUM-9.0 PHOSPHATE-4.8* MAGNESIUM-3.7*
___ 08:30PM   WBC-7.8 RBC-4.14 HGB-13.0 HCT-38.9 MCV-94 
MCH-31.4 MCHC-33.4 RDW-13.3 RDWSD-45.7
___ 08:30PM   NEUTS-64.6 ___ MONOS-8.5 EOS-3.5 
BASOS-0.8 IM ___ AbsNeut-5.02 AbsLymp-1.73 AbsMono-0.66 
AbsEos-0.27 AbsBaso-0.06
___ 08:30PM   PLT COUNT-157
___ 08:30PM   ___ PTT-32.9 ___

DISCHARGE LABS
___ 07:20AM BLOOD WBC-12.0*# RBC-3.84* Hgb-12.0 Hct-35.4 
MCV-92 MCH-31.3 MCHC-33.9 RDW-13.2 RDWSD-44.7 Plt ___
___ 07:20AM BLOOD Glucose-131* UreaN-38* Creat-1.1 Na-138 
K-4.0 Cl-101 HCO3-25 AnGap-16

RELEVANT INTERIM LABS
___ 09:00AM BLOOD CK-MB-6 cTropnT-<0.01
___ 08:30PM BLOOD cTropnT-<0.01
___ 08:30PM BLOOD proBNP-2690*

IMAGING

ADMISSION CXR AP ___
IMPRESSION:  
Bibasilar opacities which could be due to atelectasis noting 
that infection is not entirely excluded.  Cardiomegaly without 
other superimposed acute cardiopulmonary process. 
=========================================
ECG: SR at 77 bpm, no acute changes
========================================
ECHO: ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is top 
normal/borderline dilated. There is mild to moderate global left 
ventricular hypokinesis (LVEF = 35-40 %). No masses or thrombi 
are seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size is normal with mild 
global free wall hypokinesis. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are structurally 
normal. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion

 
Brief Hospital Course:
___ with h/o asthma/? COPD who presents with acute reactive 
airway disease exacerbation improved with CPAP, steroids, 
magnesium and neublizers, question of volume overload/acute 
exacerbation of systolic congestive heart failure as well in 
setting of elevated BNP.

#Dyspnea/acute respiratory distress/rule out acute exacerbation 
of sCHF: 
There was no clear consolidation.  Improved significantly with 
treatment for asthma/COPD exacerbation including standing nebs, 
systemic steroid burst and doxycycline.  It is unclear whether 
she's been taking her nebulizers as prescribed; Dr. ___ 
___ ___ had prescribed all three of albuterol, ipratropium and 
budesonide via nebulizer three times daily, but her duoneb 
prescription is written as "up to 4x per day" so not sure if 
she's taking it scheduled, and she says she's only taking 2 meds 
at a time.  She also had elevated BNP and crackles on exam, 
therefore c/f volume overload.  She was given one dose of IV 
furosemide and put out over 1L with improvement in respiratory 
status.  She is not on home diuretics and this may be considered 
on an outpatient basis but she was not discharged on oral 
diuretics.  Outpatient echo may be considered to re-evaluate her 
systolic function.  Pt will need to finish 2 days of prednisone 
and doxycycline on discharge.  Discharged on home regimen of 
budesonide and albuterol-ipratropium TID with no Spiriva to 
simplify the regimen as per pulmonology plans from outpatient 
records.
She has an appointment with pulmonology two days after 
discharge.

CHRONIC ISSUES
#HTN: Continued ___ and imdur.

#PAD/CAD/HLD: Continued statin and clopidogrel.

#INSOMNIA: Continued remeron.

#CONSTIPATION: Continued senna and miralax.

#OA pain: Continued Tylenol

TRANSITIONAL ISSUES
-Consider outpatient oral diuretics if patient continues to have 
difficulty with volume overload.

**Greater than 30 minutes were spent coordinating and planning 
for discharge.**
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Losartan Potassium 25 mg PO DAILY 
3. Mirtazapine 15 mg PO QHS 
4. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation Q6H:PRN sob 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Senna 8.6 mg PO QHS:PRN constipation 
9. carboxymethylcellulose-glycern 0.5-0.9 % ophthalmic QID 
10. GuaiFENesin ___ mL PO Q6H:PRN cough 
11. Atorvastatin 80 mg PO QPM 
12. Multivitamins 1 TAB PO DAILY 
13. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
16. Clopidogrel 75 mg PO DAILY 
17. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral BID 
18. Aspirin 81 mg PO DAILY 
19. albuterol sulfate 90 mcg/actuation inhalation Q4 HRS PRN SOB 


 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
7. GuaiFENesin ___ mL PO Q6H:PRN cough 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Losartan Potassium 25 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Multivitamins 1 TAB PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Senna 8.6 mg PO QHS:PRN constipation 
15. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*5 Tablet Refills:*0
16. PredniSONE 40 mg PO DAILY Duration: 2 Days 
Start on ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0
17. albuterol sulfate 90 mcg/actuation inhalation Q4 HRS PRN SOB 

18. Budesonide 0.5 mg/2 mL INHALATION TID 
via nebulizer 
RX *budesonide 0.5 mg/2 mL 2 ml inhaled three times a day Disp 
#*15 Ampule Refills:*0
19. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral BID 
20. carboxymethylcellulose-glycern 0.5-0.9 % ophthalmic QID 
21. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
22. Ipratropium-Albuterol Neb 0.5 mg-3 mg(2.5 mg base)/3 mL NEB 
Q6H sob 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 neb 
inhaled three times a day Disp #*15 Ampule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you while you were admitted at 
___.  You were admitted due to trouble breathing, which we 
think is secondary to an exacerbation of your asthma and a lung 
infection, as well as some extra fluid in your lungs. We gave 
you medications to treat the asthma and an antibiotic and gave 
you a medication to help get rid of the fluid as well.  You 
improved with this.

You will need to take a few more days of prednisone and 
doxycycline at home and then you will be finished with your 
treatment.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___